US07563805B2
4-Ethyl-3-methyl-5-oxo-1-[(R)-1-phenylethyl]pyrrolidin-3-yl-carboxylic acid
To a solution of the methyl 4-ethyl-3-methyl-5-oxo-1-[(R)-1-phenylethyl]pyrrolidin-3-yl-carboxylate (stereoisomer A) produced in Reference Example 32 (10.63 g, 36.7 mmol) in tetrahydrofuran (330 mL) and methanol (110 mL), 2N aqueous solution of sodium hydroxide (110 mL, 220 mmol) was added at room temperature, and the mixture was stirred in an oil bath at 60° C. for 5.5 hours. The reaction mixture was concentrated under reduced pressure, and after adding concentrated hydrochloric acid to the concentrate in an ice bath for acidification, the mixture was extracted with chloroform (300 mL+2×100 mL). The organic layers were combined, and dried with anhydrous sodium sulfate. After removing the dessicating agent by filtration, the solvent was removed by distillation under reduced pressure to obtain 11.46 g (quantitative) of the crude title compound as a pale brown solid. The crude product was used in the subsequent reaction with no further purification.

reactant | methyl 4-ethyl-3-methyl-5-oxo-1-[(R)-1-phenylethyl]pyrrolidin-3-yl-carboxylate | C(C)C1C(CN(C1=O)[C@H](C)C1=CC=CC=C1)(C)C(=O)OC | C17H23NO3
reactant | sodium hydroxide | 220 mmol, 110 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 330 mL | O1CCCC1 | C4H8O
solvent | methanol | 110 mL | CO | CH4O
product | 4-Ethyl-3-methyl-5-oxo-1-[(R)-1-phenylethyl]pyrrolidin-3-yl-carboxylic acid | C(C)C1C(CN(C1=O)[C@H](C)C1=CC=CC=C1)(C)C(=O)O | C16H21NO3
